US06165941
3-Chloro-2-[4-(bis-[1,1-dimethylethoxycarbonyl]methyl)-3-nitrophenyl]-5-trifluoromethylpyridine
0.9 g of an 80% strength by weight suspension of sodium hydride in mineral oil was added to 10 ml of anhydrous dimethylformamide. A solution of 5.1 g of di-tert-butyl malonate in 20 ml of dimethylformamide was added dropwise to this mixture, after which it was stirred for 30 minutes. A solution of 7.5 g of 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine in 20 ml of dimethylformamide was then added dropwise. The reaction mixture was stirred at 23° C. for 20 hours and at 80° C. for 5 hours. The cooled reaction mixture was then poured into 200 ml of ice water. The aqueous phase was extracted three times with 100 ml of tert-butyl methyl ether each time. The combined organic phases were washed with 100 ml of water, dried over sodium sulfate and concentrated. Yield: 10.8 g (79%) of a colorless oil.

reactant | sodium hydride | [H-].[Na+]
reactant | di-tert-butyl malonate | 5.1 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine | 7.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C12H5ClF4N2O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-[4-(bis-[1,1-dimethylethoxycarbonyl]methyl)-3-nitrophenyl]-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)[N+](=O)[O-] | C23H24ClF3N2O6
